US05661159
A mixture of 7-chloro-2-(5-nitrobenzofuran-2-yl)-quinoline (1.7 g), 10% aqueous hydrochloride (20 ml) and tin(II) chloride bihydrate (4.0 g) in ethanol (10 ml) was stirred mechanically under reflux for 7 hours. After being cooled, the resulting mixture was made basic with aqueous sodium hydroxide and filtered. The precipitates were dissolved into tetrahydrofuran (100 ml) and filtered. The filtrate was concentrated under reduced pressure to give crude materials, which were purified by column chlomatography to give 7-chloro-2-(5-aminobenzofuran-2-yl)quinoline (0.73 g).

reactant | 7-chloro-2-(5-nitrobenzofuran-2-yl)-quinoline | 1.7 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C17H9ClN2O3
reactant | hydrochloride | 20 ml | Cl | ClH
reactant | tin(II) chloride | 4.0 g | [Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-chloro-2-(5-aminobenzofuran-2-yl)quinoline | 0.73 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)N | C17H11ClN2O
